US03986861
N-((4-benzyloxymethyl-2,4-dimethyl-1,3-dioxolane-2-yl)carbonyl)-N-phenylurea
4-Benzyloxymethyl-2,4-dimethyl-1,3-dioxane-2-carboxamide (4.5g) and phenyl isocyanate (2.0g) in toluene (50 ml) were heated together under reflux for 20 hours. The toluene was then removed from the mixture under reduced pressure. The residue was triturated with petroleum ether (b.p. 40°-60° C) and recrystallized from ethanol to give the required product m.p. 91°-94° C.

reactant | 4-Benzyloxymethyl-2,4-dimethyl-1,3-dioxane-2-carboxamide | 4.5g | C(C1=CC=CC=C1)OCC1(OC(OCC1)(C(=O)N)C)C | C15H21NO4
reactant | phenyl isocyanate | 2.0g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-((4-benzyloxymethyl-2,4-dimethyl-1,3-dioxolane-2-yl)carbonyl)-N-phenylurea | C(C1=CC=CC=C1)OCC1(OC(OC1)(C)C(=O)N(C(=O)N)C1=CC=CC=C1)C | C21H24N2O5
